US05147886
To 13.2 g of 2-bromo-4'-(trifluoromethyl)acetophenone dissolved in 40 ml of methanol was added under ice-cooling 34.6 g of a 15% aqueous solution of methyl mercaptan sodium salt. After the reaction at room temperature for 1 hour with stirring, the resultant reaction mixture was poured into ice-cooled water and extracted with dichloromethane. The organic layer was washed with water and dried over anhydrous magnesium sulfate, followed by evaporation of the solvent to obtain 11.3 g of oily product of 2-methylthio-4'-(trifluoromethyl)acetophenone (yield: 97.7%).

reactant | 2-bromo-4'-(trifluoromethyl)acetophenone | 13.2 g | BrCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6BrF3O
reactant | methyl mercaptan sodium salt | [Na].CS
reactant | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 2-methylthio-4'-(trifluoromethyl)acetophenone | yield: 97.7% | CSCC(=O)C1=CC=C(C=C1)C(F)(F)F | C10H9F3OS
